US06528543B1
2-(4-Bromo-phenyl)-3-cyclopentyl-propionic acid methyl ester (420.0 mg, 1.35 mmol) and methyl urea (299.9 mg, 4.05 mmol) were treated with a solution of magnesium methoxide in methanol (7.4 wt %, 7.7 mL, 5.40 mmol). The resulting reaction mixture was then heated under reflux for 48 h. The reaction mixture was allowed to cool to 25° C. and then filtered through celite. The celite was thoroughly washed with ethyl acetate, and the filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 3/1 hexanes/ethyl acetate) afforded 1-[2-(4-bromo-phenyl)-3-cyclopentyl-propionyl]-3-methyl urea (58.7 mg, 12%) as a white solid: mp 184-186° C.; EI-HRMS m/e calcd for C16H21BrN2O2 (M+) 352.0786, found 352.0791.

reactant | 2-(4-Bromo-phenyl)-3-cyclopentyl-propionic acid methyl ester | 1.35 mmol, 420.0 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)Br)=O | C15H19BrO2
reactant | methyl urea | 4.05 mmol, 299.9 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 5.40 mmol, 7.7 mL | CO | CH4O
product | 1-[2-(4-bromo-phenyl)-3-cyclopentyl-propionyl]-3-methyl urea | 58.7 mg, 12% | BrC1=CC=C(C=C1)C(C(=O)NC(=O)NC)CC1CCCC1 | C16H21BrN2O2
